US07232827B2
3.1. 2-(Pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one
A mixture of 8.98 g (46.5 mmol) of ethyl 3-(4-pyridyl)-3-oxopropionate and 8.0 g (46.5 mmol) of 2-amino-3,4,5,6-tetrahydropyrimidine dihydrochloride (prepared according to J. Org. Chem. 1955, 20, 829) and 19.3 g (139.5 mmol) of potassium carbonate in 60 ml of ethanol was heated at reflux temperature during 18 h.

reactant | ethyl 3-(4-pyridyl)-3-oxopropionate | 46.5 mmol, 8.98 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 2-amino-3,4,5,6-tetrahydropyrimidine dihydrochloride | 46.5 mmol, 8.0 g | Cl.Cl.NC1=NCCCN1
reactant | potassium carbonate | 139.5 mmol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-(Pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | N1=CC=C(C=C1)C=1N=C2N(C(C1)=O)CCCN2 | C12H12N4O
